US20010037042A1
Preparation of 4-trifluoromethyl-benzoic Acid Butyl Ester
Sodium carbonate (2.22 g, 21 mmols), 4-bromobenzotrifluoride (3.15 g, 14 mmols) and 26 ml of n-butanol are placed in a glass autoclave. The autoclave is rinsed with nitrogen and heated to 120° C. A solution of palladium bis(benzonitrile) dichloride (54 mg, 0.14 mmols) and dinorbornylphosphine (0.22 g, 0.98 mmols) in 2 ml of n-butanol (prepared under argon) is added, and then 1 bar CO is applied. After 16 hours at 130° C., the mixture is allowed to cool. The reaction mixture is taken up in water and methylene chloride. The organic phase is separated, dried and concentrated. The residue is purified by bulb tube distillation. Yield of title compound: 1.7 g (49%).

reactant | Sodium carbonate | 21 mmols, 2.22 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromobenzotrifluoride | 14 mmols, 3.15 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | dinorbornylphosphine | 0.98 mmols, 0.22 g | C12(CCC(CC1)C2)PC21CCC(CC2)C1 | C14H23P
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium bis(benzonitrile) dichloride | 0.14 mmols, 54 mg | [Cl-].[Cl-].C(C1=CC=CC=C1)#N.C(C1=CC=CC=C1)#N.[Pd+2]
solvent | n-butanol | 26 ml | C(CCC)O | C4H10O
product | 4-trifluoromethyl-benzoic Acid Butyl Ester | C(CCC)OC(C1=CC=C(C=C1)C(F)(F)F)=O | C12H13F3O2
